US03954754
EXAMPLE 76: 5,6,7,8,9,10-Hexahydro-3-isopropylidenehydrazinocycloocta[c]pyridazine
A solution of 0.5 g of 3-hydrazino-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine in 15 cc of absolute acetone is heated on a water bath for 1 hour. After cooling the title compound crystallizes. M.P. 165°-167° (decomp.).

reactant | 3-hydrazino-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine | 0.5 g | N(N)C1=CC2=C(N=N1)CCCCCC2 | C10H16N4
reactant | acetone | 15 cc | CC(=O)C | C3H6O
product | 5,6,7,8,9,10-Hexahydro-3-isopropylidenehydrazinocycloocta[c]pyridazine | C(C)(C)=NNC1=CC2=C(N=N1)CCCCCC2 | C13H20N4
